### ISSUE TITLE
Bug in replaceLocalDeclDefEq

### ISSUE THREAD

**Issue by djvelleman** [leanprover/lean4#1615]
### Prerequisites

* [ X] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

Lean.MVarId.replaceLocalDeclDefEq doesn't do anything if the new type for the FVar happens to equal the type of the goal

### Steps to Reproduce

Here is an example that illustrates the problem:

elab "test" h:ident : tactic => do
  let g ← Lean.Elab.Tactic.getMainGoal
  g.withContext do
    let ldec ← Lean.Meta.getLocalDeclFromUserName h.getId
    let f := ldec.fvarId
    let e ← Lean.Meta.whnf (← Lean.instantiateMVars ldec.type)
    let newgoal ← g.replaceLocalDeclDefEq f e
    Lean.Elab.Tactic.replaceMainGoal [newgoal]

example (n : Nat) (h : 2 ∣ n) : ∃ c, n = c * 2 := by
  test h

example (n : Nat) (h : 2 ∣ n) : ∃ c, n = 2 * c := by
  test h

**Expected behavior:** In both cases, the type of h should change to ∃ c, n = 2 * c

**Actual behavior:** It changes in the first example, but not the second

**Reproduces how often:** Always

### Versions

Lean (version 4.0.0-nightly-2022-08-25, commit d4799eaf3a74, Release)
MacOS 12.5.1

### Additional Information

It is clear what the bug is:  The test "if typeNew == mvarDecl.type then" is the wrong test.  Should be comparing typeNew to the type of the fvar, not the type of the mvar.

**Comment by djvelleman** [comment]
I'm not sure why this issue has the label "missing mwe".  The description of problem gives an example that demonstrates the problem.

Note that the problem should be very easy to fix.  The "additional information" in the problem description identifies the line in the code where the error occurs.

**Comment by digama0** [comment]
The example is not a MWE, because it is not self-contained. Here is a MWE:
```lean
import Lean

elab "test" h:ident : tactic => do
  let g ← Lean.Elab.Tactic.getMainGoal
  g.withContext do
    let ldec ← Lean.Meta.getLocalDeclFromUserName h.getId
    let f := ldec.fvarId
    let e ← Lean.Meta.whnf (← Lean.instantiateMVars ldec.type)
    let newgoal ← g.replaceLocalDeclDefEq f e
    Lean.Elab.Tactic.replaceMainGoal [newgoal]


def Nat.dvd (a b : Nat) := ∃ c, b = a * c

infix:50 " ∣ " => Nat.dvd

example (n : Nat) (h : 2 ∣ n) : ∃ c, n = c * 2 := by
  test h

example (n : Nat) (h : 2 ∣ n) : ∃ c, n = 2 * c := by
  test h
```
